US06489354B1
1-Benzyl-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxymethylpyrrolidine
To a solution of 6.4 g (14.6 mmol) of 1-benzyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylcarbonyl)-4-(RS)-(ethoxycarbonyl)pyrrolidine in 60 mL of THF at 0° C. was added 17.5 mL (17.5 mmol) of a 1M solution of lithium aluminum hydride (LAH) in ether and the reaction was stirred at 0° C. for 30 min. The reaction mixture was quenched with 5N NaOH. The reaction mixture was extracted with ether and the combined organic fractions were washed with 5N NaOH solution. The organic fractions were dried over Na2SO4, filtered and the filtrate was purified by chromatography [silica, hexanes: ethyl acetate: (2N NH3 in MeOH), 10: 10: 1] to give 4.7 g of the title compound. Spectrum (ESI) m/e=383 (M+1).

reactant | 3-(RS)-(4-(4-fluorophenyl)piperidinylcarbonyl)-4-(RS)-(ethoxycarbonyl)pyrrolidine | FC1=CC=C(C=C1)C1CCN(CC1)C(=O)C1CNCC1C(=O)OCC | C19H25FN2O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-Benzyl-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxymethylpyrrolidine | 4.7 g | C(C1=CC=CC=C1)N1CC(C(C1)CO)CN1CCC(CC1)C1=CC=C(C=C1)F | C24H31FN2O
